US08754226B2
Tert-butyl 4-((3S,4S)-4-(benzyloxy)-3-(2-fluoro-4-(methylsulfonyl)phenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (160 mg, 0.284 mmol) was dissolved in EtOH (3 mL) and 100 mg 10% Pd/C was added and stirred under balloon pressure of hydrogen overnight. The reaction was filtered and concentrated to afford tert-butyl 4-((3S,4S)-3-(2-fluoro-4-(methylsulfonyl)phenoxy)-4-hydroxy-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (80 mg, 0.169 mmol, 59.5% yield).

reactant | Tert-butyl 4-((3S,4S)-4-(benzyloxy)-3-(2-fluoro-4-(methylsulfonyl)phenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 0.284 mmol, 160 mg | C(C1=CC=CC=C1)O[C@@H]1[C@@H](C(N(C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O)OC1=C(C=C(C=C1)S(=O)(=O)C)F | C28H35FN2O7S
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 3 mL | CCO | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | tert-butyl 4-((3S,4S)-3-(2-fluoro-4-(methylsulfonyl)phenoxy)-4-hydroxy-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 0.169 mmol, 80 mg, 59.5% yield | FC1=C(O[C@@H]2C(N(C[C@@H]2O)C2CCN(CC2)C(=O)OC(C)(C)C)=O)C=CC(=C1)S(=O)(=O)C | C21H29FN2O7S
